US07425568B2
e) 2-[2,5-Bis(benzyloxy)phenoxy]-1-phenylethanol
To the solution of 2-[2,5-bis(benzyloxy)phenoxy]-1-phenylethanone (0.14 g) in methanol (0.5 ml) and tetrahydrofuran (1.9 ml) was added at the 0° C. temperature sodium borohydride (6.5 mg). The reaction was stirred 15 minutes at 0° C. and 2 hrs at 22° C. temperature. After adding water (5 ml) methanol and tetrahydrofuran were evaporated off. After the residue was stirred at 22° C. 0.5 hr the product was filtered, washed with cold water and dried under reduced pressure. Yield is 0.09 g. 1H NMR (DMSO-d4) δ=4.05 (m, 2H), 4.91 (m, 1H), 4.95 (s, 2H), 5.01 (s, 2H), 5.59 (d, J=4.7 Hz, 1H), 6.47 (dd, J=2.8, 8.8 Hz, 1H), 6.68 (d, J=2.8 Hz, 1H), 6.89 (d, J=8.8 Hz, 1H), 7.24-7.45 (m, 15H).

reactant | 2-[2,5-bis(benzyloxy)phenoxy]-1-phenylethanone | 0.14 g | C(C1=CC=CC=C1)OC1=C(OCC(=O)C2=CC=CC=C2)C=C(C=C1)OCC1=CC=CC=C1 | C28H24O4
reactant | sodium borohydride | 6.5 mg | [BH4-].[Na+]
reactant | water | 5 ml | O | H2O
solvent | methanol | 0.5 ml | CO | CH4O
solvent | tetrahydrofuran | 1.9 ml | O1CCCC1 | C4H8O
product | 2-[2,5-Bis(benzyloxy)phenoxy]-1-phenylethanol | C(C1=CC=CC=C1)OC1=C(OCC(O)C2=CC=CC=C2)C=C(C=C1)OCC1=CC=CC=C1 | C28H26O4
